US07723369B2
2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole (1 g, 2.6 mmol) was treated with (3-iodo-phenyl)-carbamic acid tert-butyl ester following general procedure R to provide {3-[2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-carbamic acid tert-butyl ester. The bromophenyl product (370 mg, 0.64 mmol) was treated as described in general procedure G using 4-ethoxycarbonylphenyl boronic acid to provide 4′-[1-(3-tert-butoxycarbonylamino-phenyl)-4-(2,4-dichloro-phenyl)-1H-imidazol-2-ylmethyl]-biphenyl-4-carboxylic acid ethyl ester.

reactant | 2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | 2.6 mmol, 1 g | BrC1=CC=C(CC=2NC=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C16H11BrCl2N2
reactant | (3-iodo-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)I)=O | C11H14INO2
product | {3-[2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C27H24BrCl2N3O2
